US04471117
A mixture of 18 parts of 3,4-dihydro-7-nitro-2H-pyrimido[2,1-b]benzothiazole and 240 parts of methanol, previously saturated with gaseous ammonia is hydrogenated at normal pressure and at room temperature with 5 parts of palladium-on-charcoal catalyst 5%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 8.6 parts of 3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine; mp. 197° C.

reactant | 3,4-dihydro-7-nitro-2H-pyrimido[2,1-b]benzothiazole | [N+](=O)([O-])C=1C=CC2=C(N3C(S2)=NCCC3)C1 | C10H9N3O2S
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine | N=1CCCN2C1SC1=C2C=C(C=C1)N | C10H11N3S
